US07632948B2
The reaction mixture (i.e. N,N-dimethyl-4-(8-methyl-2,3-dioxo-2,3,6,7,8,9-hexahydro-1H-pyrrolo[3,2-h]isoquinolin-5-yl)-benzenesulfonamide and 4-(3-hydroxyimino-8-methyl-2-oxo-2,3,6,7,8,9-hexahydro-1H-pyrrolo[3,2-h]isoquinolin-5-yl)-N,N-dimethyl-benzenesulfonamide) was poured onto H2O (3.5 L), heated to reflux and then filtered warm to remove celite. The celite was washed with boiling water (750 mL), and the combined aqueous fractions allowed cooling slowly overnight for precipitation. The precipitate was filtered off, washed with H2O (2×250 mL) and 96% EtOH (2×250 mL) and then air dried to give 69.8 g (67%) of crude isatin derivative as the hydrosulfate. The crude product contained 11.4% (typically 9-13%) of the oxime.

reactant | N,N-dimethyl-4-(8-methyl-2,3-dioxo-2,3,6,7,8,9-hexahydro-1H-pyrrolo[3,2-h]isoquinolin-5-yl)-benzenesulfonamide | CN(S(=O)(=O)C1=CC=C(C=C1)C=1C=2CCN(CC2C2=C(C1)C(C(N2)=O)=O)C)C | C20H21N3O4S
reactant | 4-(3-hydroxyimino-8-methyl-2-oxo-2,3,6,7,8,9-hexahydro-1H-pyrrolo[3,2-h]isoquinolin-5-yl)-N,N-dimethyl-benzenesulfonamide | ON=C1C(NC2=C1C=C(C=1CCN(CC21)C)C2=CC=C(C=C2)S(=O)(=O)N(C)C)=O | C20H22N4O4S
product | isatin | 69.8 g, 67% | N1C(=O)C(=O)C2=CC=CC=C12 | C8H5NO2
